US05374606
A mixture of methyl 2-fluoro-4-methylsulphenylbenzoate (4.1 g), sodium thiomethoxide (1.48 g) and N,N-dimethylformamide (16 ml) was stirred at 50° C. for 18 hours, poured onto water and extracted (ethyl acetate). The extract was washed (water), dried (magnesium sulphate) and evaporated to give methyl 2-methylsulphenyl-4-methylsulphenylbenzoate (2.09 g) as an orange oil, NMR (CDCl3) 2.0 (s,3H), 2.4 (s,3H), 3.65 (s,2H), 3.9 (s,3H), 7.05 (dd,1H), 7.15 (d,1H), 7.9 (d,1H).

reactant | methyl 2-fluoro-4-methylsulphenylbenzoate | 4.1 g | FC1=C(C(=O)OC)C=CC(=C1)SC | C9H9FO2S
reactant | sodium thiomethoxide | 1.48 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | methyl 2-methylsulphenyl-4-methylsulphenylbenzoate | 2.09 g | CSC1=C(C(=O)OC)C=CC(=C1)SC | C10H12O2S2
